US07498337B2
2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (331 mg) in N,N-dimethylformamide (33 mL) was added N-chlorosuccinimide (268 mg) and the mixture was stirred at 60° C. for 1 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=7:3→1:1) to give the title compound as a colorless oil (yield 250 mg, 68%).

reactant | 5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 331 mg | FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H11FN2O3S
reactant | N-chlorosuccinimide | 268 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 33 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 250 mg, 68% | ClC=1N(C(=CC1C=O)C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1 | C16H10ClFN2O3S
